US06462035B1
11-AZA-TRICYCLO[7.3.1.02,7]TRIDECA-2(7),3,5-TRIEN-4-OL
4-Methoxy-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene hydrochloride (120 mg, 0.50 mmol) was brought to reflux in 48%HBr (2 mL). After 1 hour the solution was cooled and poured Into a 1N aq. NaOH soln. adjusted to pH 10 and product was extracted with EtOAc (3×40 mL). The organic layer was washed with brine (50 mL), dried (MgSO4) and concentrated to a white solid which was recrystallized from Et2O/hexanes (40 mg, 42%). (TLC 50%EtOAc/CH2Cl2 Rf 0.15). 1H NMR (CDCl3) δ6.96 (d, J=8.0 Hz, 1H), 6.60 (dd, J=8.0,2.5 Hz, 1H), 6.46 (d, J=2.5 Hz, 1H), 3.31 (m, 1H), 3.03 (dd, J=17.0,6.0 Hz, 1H), 2.95 (m, 2H,NH), 2.73 (m, 3H), 1.99 (m, 2H), 1.87 (AB d, J=12.5 Hz, 1H). mp 215-217° C.

reactant | 4-Methoxy-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene hydrochloride | 0.50 mmol, 120 mg | Cl.COC1=CC=2C3CNCC(CC2C=C1)C3
reactant | HBr | 2 mL | Br | BrH
reactant | NaOH | 1N | [OH-].[Na+]
product | 11-AZA-TRICYCLO[7.3.1.02,7]TRIDECA-2(7),3,5-TRIEN-4-OL | C12C=3C=C(C=CC3CC(CNC1)C2)O | C12H15NO
